US07501430B2
Preparation of 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}-N′-hydroxybenzenecarboximidamide
To a suspension of N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-cyano-phenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine (0.050 g, 0.086 mmol) in 80% ethanol-water (2.5 mL) was added an aqueous solution (0.50 mL) containing 6.65 mg of hydroxylamine hydrochloride (1.1 equivalents) and 4.61 mg of sodium carbonate (0.5 equivalents). The resulting solution was heated at 80° C. for 20 hours. Solid was collected by filtration and treated with hot (80° C.) 80% ethanol-water (2 mL×5). Solid was collected and dried under vacuum at 45° C. overnight to afford 25 mg (48%) of the title compound as a yellow solid. M.p.=272-273° C. 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 9.52 (s, 1H), 8.70 (bs, 1H), 8.11 (d, J=5.2 Hz, 1H), 7.93 (s, 1H), 7.77-7.73 (m, 3H), 7.67-7.66 (m, 2H), 7.59 (d, J=6.8 Hz, 1H), 7.47-7.40 (m, 2H), 7.11 (d, J=7.6 Hz, 1H), 6.38 (d, J=4.4 Hz, 1H), 5.68 (s, 2H), 3.94 (br. s, 1H), 3.73 (d, J=8.4 Hz, 1H), 3.48 (d, J=10.8 Hz, 1H), 2.49-2.48 (m, 1H), 2.35 (t, J=8.8 Hz, 1H), 1.95-1.84 (m, 2H), 1.60-1.5 (m, 1H), 1.46-1.30 (m, 1H). LCMS: 610 [M+H].

reactant | N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-cyano-phenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine | 0.086 mmol, 0.050 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C2=CC(=CC=C2)C#N | C27H22ClN7O2S2
reactant | hydroxylamine hydrochloride | 6.65 mg, 1.1 equivalents | Cl.NO
reactant | sodium carbonate | 4.61 mg, 0.5 equivalents | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol water | 2.5 mL | C(C)O.O
product | 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}-N′-hydroxybenzenecarboximidamide | 25 mg, 48% | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C=2C=C(C=CC2)C(N)=NO | C27H25ClN8O3S2
